US04826982
3-Bromo-2,4-dichloro-5-fluoronitrobenzene
To a mixture of anhydrous cupric chloride (147 g) and 2-bromo-3-chloro-4-fluoro-6-nitroaniline (235.6 g) in anhydrous acetonitrile (1.5 litter) was added tert-butylnitrite (135.2 g) at 60° C. during 70 minutes. The reaction mixture was poured into ice-chilled diluted hydrochloric acid (1.5 litter) and extracted with benzene. The organic layer was successively washed with ice-chilled diluted hydrochloric acid and water saturated with sodium chloride, dried over anhydrous sodium sulfate and concentrated. The resulting residue was purified by distillation to give the title compound (218.8 g), bp 78°-117° C./2 mmHg. The oil was crystallized from methanol to give yellow prisms, mp 65.5°-67.5° C.

reactant | 2-bromo-3-chloro-4-fluoro-6-nitroaniline | 235.6 g | BrC1=C(N)C(=CC(=C1Cl)F)[N+](=O)[O-] | C6H3BrClFN2O2
reactant | tert-butylnitrite | 135.2 g | C(C)(C)(C)ON=O | C4H9NO2
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | C(C)#N | C2H3N
product | 3-Bromo-2,4-dichloro-5-fluoronitrobenzene | 218.8 g | BrC=1C(=C(C=C(C1Cl)F)[N+](=O)[O-])Cl | C6HBrCl2FNO2
